US09382243B2
(2R,3 S,5R)-5-((6-chloro-5-iodo-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol
6-chloro-5-iodo-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine-(185 mg, 0.287 mmol) was dissolved in formic acid (1 ml, 26.1 mmol) and saturated potassium hydrogen sulfate (0.1 ml, 0.287 mmol). The reaction was heated to 50° C. for 4 h, and then diluted with EtOAc, followed by the addition of 3 M NaOH until pH 14 was reached. The reaction was stirred for 15 minutes at rt and the layers were separated. The aqueous layer was extracted with EtOAc (×2) and the combined EtOAc extracts were washed with brine, dried over Na2SO4, filtered, and concentrated. The resulting crude product was purified by column chromatography on a Biotage™ 25 g column and eluted with 1% to 10% MeOH in DCM to yield the desired product. LC-MS: calculated for C12H13ClIN3O4 424.96 observed m/e: 426.00 (M+H)+ (Rt 1.05/2 min).

reactant | 6-chloro-5-iodo-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine- | 0.287 mmol, 185 mg | ClC=1C=C2C(=NC1I)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C25H31ClIN3O5Si
reactant | formic acid | 26.1 mmol, 1 ml | C(=O)O | CH2O2
reactant | potassium hydrogen sulfate | 0.287 mmol, 0.1 ml | S(=O)(=O)(O)[O-].[K+]
reactant | NaOH | 3 M | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R,3 S,5R)-5-((6-chloro-5-iodo-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | ClC=1C=C2C(=NC1I)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)CO)O | C12H13ClIN3O4
